US08022062B2
Combine 7-chloro-6-(4-methoxycarbonyl-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (70 mg, 0.16 mmol), potassium carbonate (0.87 g, 6.3 mmol), methanol (2 mL), water (2 mL) and heat at 50° C. for 3 h. Purify by SCX chromatography to obtain 6-(4-carboxy-benzylamino)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a yellow oil.

reactant | 7-chloro-6-(4-methoxycarbonyl-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.16 mmol, 70 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)C(=O)OC | C21H20ClF3N2O3
reactant | potassium carbonate | 6.3 mmol, 0.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 2 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 6-(4-carboxy-benzylamino)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(=O)(O)C1=CC=C(CNC2=C(C=CC=3CCNCCC32)Cl)C=C1 | C18H19ClN2O2
